US07829560B2
3-Fluoro-N-(4-{[2-(4-methylpiperazin-1-yl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-morpholin-4-ylbenzamide (Compound B328).
Compound is prepared from 3-fluoro-N-(4-{[2-(methylsulfonyl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-morpholin-4-ylbenzamide and N-methylpiperazine according to conditions described in general procedure C. Mp: 195-197° C.; 1H NMR (400 MHz, CDCl3) δ 2.35 (s, 3 H), 2.39 (t, J=4.4 Hz, 4 H), 3.25 (t, J=4.8 Hz, 4 H), 3.69 (s, 4 H), 3.87 (t, J=4.4 Hz, 4 H), 6.01 (d, J=5.6 Hz, 1 H), 6.78 (d, J=11.6 Hz, 1 H), 7.07 (d, J=8.0 Hz, 1 H), 7.30-7.32 (m, 2 H), 7.49-7.59 (m, 2 H), 7.89-8.00 (m, 3 H), 8.15-8.18 (m, 2 H).

reactant | 3-fluoro-N-(4-{[2-(methylsulfonyl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-morpholin-4-ylbenzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)S(=O)(=O)C)C=C(C1)N1CCOCC1 | C26H23FN4O5S
reactant | N-methylpiperazine | CN1CCNCC1 | C5H12N2
product | 3-Fluoro-N-(4-{[2-(4-methylpiperazin-1-yl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-morpholin-4-ylbenzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)N2CCN(CC2)C)C=C(C1)N1CCOCC1 | C30H31FN6O3
